US05717124
1.05 g of (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoic acid prepared above was dissolved in 16 ml of acetone to prepare the solution. To the solution, 2.02 g of methyl iodide and 0.391 g of potassium carbonate were added with stirring, and then the solution was further stirred for 5 hours at room temperature. After 16 ml of water was added to the solution, the solution was extracted with two portions of 20 ml of ethyl acetate. The ethyl acetate portions were combined and dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation in vacuo to give 1.0 g of methyl (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoate as an oil (optical purity: 98% ee; yield: 92% based on the amount of (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoic acid).

reactant | (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoic acid | 1.05 g | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)O)CC(CP(=O)(OC)OC)=O | C14H29O7PSi
reactant | methyl iodide | 2.02 g | CI | CH3I
reactant | potassium carbonate | 0.391 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 16 ml | O | H2O
solvent | acetone | 16 ml | CC(=O)C | C3H6O
product | methyl (R)-3-t-butyldimethylsilyloxy-6-dimethoxyphosphinyl-5-oxohexanoate | 1.0 g, yield: 92% | [Si](C)(C)(C(C)(C)C)O[C@@H](CC(=O)OC)CC(CP(=O)(OC)OC)=O | C15H31O7PSi
